US08383657B2
N-[(2Z)-5-methyl-3-[4-(methylthio)phenyl]-1,3-thiazol-2(3H)-ylidene]pyrrolidine-1-carboxamide
To a 4 mL vial equipped with a septum cap and stir bar was added N-(5-methyl-1,3-thiazol-2-yl)pyrrolidine-1-carboxamide (50 mg, 0.24 mmol), copper(I) trifluoromethanesulfonate benzene complex (23.8 mg, 0.05 mmol), 5-chloro-1,10-phenanthroline (20.3 mg, 0.09 mmol) and cesium carbonate (84.8 mg, 0.26 mmol). The mixture was placed under a nitrogen atmosphere. (4-Bromophenyl)(methyl)sulfane (0.28 mmol) in 1-methyl-2-pyrrolidinone (1.0 mL) was added to the mixture. The reaction mixture was heated at 120° C. for overnight. A solution of concentrated ammonium hydroxide/water (1:2, 1 mL) was added and the mixture was filtered and solvent removed under reduced pressure. The residue was purified by reverse phase HPLC (C8, gradient 10-100% acetonitrile/water/0.1% trifluoroacetic acid).

reactant | N-(5-methyl-1,3-thiazol-2-yl)pyrrolidine-1-carboxamide | 0.24 mmol, 50 mg | CC1=CN=C(S1)NC(=O)N1CCCC1 | C9H13N3OS
reactant | 5-chloro-1,10-phenanthroline | 0.09 mmol, 20.3 mg | ClC1=C2C=CC=NC2=C2N=CC=CC2=C1 | C12H7ClN2
reactant | cesium carbonate | 0.26 mmol, 84.8 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (4-Bromophenyl)(methyl)sulfane | 0.28 mmol | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | ammonium hydroxide water | 1 mL | [OH-].[NH4+].O
solvent | 1-methyl-2-pyrrolidinone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
product | N-[(2Z)-5-methyl-3-[4-(methylthio)phenyl]-1,3-thiazol-2(3H)-ylidene]pyrrolidine-1-carboxamide | CC1=CN(/C(/S1)=N/C(=O)N1CCCC1)C1=CC=C(C=C1)SC | C16H19N3OS2
